US04820727
[[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl](methoxycarbonyl)amino]acetamide
Dimethyl formamide (6 μL, 0.067 eq) and oxalyl chloride (130 μL, 1.2 eq) were added to a stirred solution of N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine in anhydrous methylene chloride (2.5 mL) at 0° C. under a dry nitrogen atmosphere. After 5 minutes, the reaction was warmed to room temperature. After 13/4 hours, the organics were removed. The residue was dissolved in anhydrous ether (30 mL) at 0° C. and ammonia gas was bubbled in for 1 minute. The reaction was immediately quenched with hexane (30 mL). The solid was collected by suction filtration and suspended in ethyl acetate (75 mL). The ethyl acetate phase was washed with water (2×25 mL), dried with magnesium sulfate, and the ethyl acetate was removed. The solid was combined with that from another run and recrystallized in chloroform:petroleum ether to provide the title compound as a white solid (325 mg, 54% combined yield), m.p. 199°-202° C.

reactant | Dimethyl formamide | 6 μL, 0.067 eq | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 130 μL, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[[2-fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl]-N-(methoxycarbonyl)glycine | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(CC(=O)O)C(=O)OC | C17H13F4NO6
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | [[[2-Fluoro-6-methoxy-5-(trifluoromethyl)-1-naphthalenyl]carbonyl](methoxycarbonyl)amino]acetamide | 325 mg, 54% | FC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)N(C(=O)OC)CC(=O)N | C17H14F4N2O5
